US06177423B1
4-Hydroxy-1,8-naphthalic anhydride
To a solution of 1.0 g (4.7 mmol) of 4-amino-1,8-naphthalic anhydride in 5 mL concentrated sulfuric acid at 0° C. to 5° C. was added 1.0 g (14.5 mmol) of sodium nitrite, and then 0.5 mL of water. The reaction was stirred for 30 minutes at 0° C. to 5° C., followed by addition of 5 mL (38 mmol) of 48% aqueous fluoroboric acid, with stirring for 30 minutes. The mixture was poured into ice water. The precipitate was isolated, suspended in a solution of 10 mL concentrated sulfuric acid in 50 mL water, refluxed in 3 hours, and again poured onto ice. The precipitate was isolated, washed with water, and dried to yield 620 mg of the title compound.

reactant | 4-amino-1,8-naphthalic anhydride | 4.7 mmol, 1.0 g | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)N | C12H7NO3
reactant | sodium nitrite | 14.5 mmol, 1.0 g | N(=O)[O-].[Na+]
reactant | fluoroboric acid | 38 mmol, 5 mL | F[B-](F)(F)F.[H+]
solvent | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 mL | O | H2O
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 0.5 mL | O | H2O
product | 4-Hydroxy-1,8-naphthalic anhydride | 620 mg | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)O | C12H6O4
